US08357679B2
1-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-isopropylurea
(4-Amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-benzyl)piperazin-1-yl)methanone (0.209 mmol, 0.1 g) and N,N-diisopropylethylamine (0.709 mmol, 0.117 mL, 0.092 g) were stirred in dichloromethane at room temperature. Triphosgene (0.077 mmol, 0.023 g) was added and the reaction mixture stirred for 30 minutes. Isopropylamine (0.417 mmol, 0.036 mL, 0.025 g) was added and the reaction stirred for a further 30 minutes. The reaction was concentrated at reduced pressure and the resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 5% methanol/dichloromethane) to afford the title compound (20 mg). MS (ESI) m/z 565.5 [M+H]+

reactant | (4-Amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-benzyl)piperazin-1-yl)methanone | 0.209 mmol, 0.1 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C21H20F7N3O2
reactant | N,N-diisopropylethylamine | 0.709 mmol, 0.117 mL, 0.092 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Triphosgene | 0.077 mmol, 0.023 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Isopropylamine | 0.417 mmol, 0.036 mL, 0.025 g | C(C)(C)N | C3H9N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-isopropylurea | 20 mg | FC1=C(C=CC(=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)NC(C)C | C25H27F7N4O3
